### PR TITLE
[Merged by Bors] - refactor(NumberTheory): golf `Mathlib/NumberTheory/Zsqrtd/GaussianInt`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `normSq_le_normSq_of_re_le_of_im_le` to reduce to the squared-coordinate inequalities and finish with `nlinarith`

Extracted from #38144

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `GaussianInt.normSq_le_normSq_of_re_le_of_im_le`: `0.530680 -> 0.318945` (`-39.90%`)

Overall:
- the profiled declaration got faster
- no regression was observed among the changed declarations profiled here

File: Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean [hunk 1]
```diff
@@ -177,10 +177,8 @@ theorem toComplex_im_div (x y : ℤ[i]) : ((x / y : ℤ[i]) : ℂ).im = round (x
 
 theorem normSq_le_normSq_of_re_le_of_im_le {x y : ℂ} (hre : |x.re| ≤ |y.re|)
     (him : |x.im| ≤ |y.im|) : Complex.normSq x ≤ Complex.normSq y := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean]:
```suggestion
    (him : |x.im| ≤ |y.im|) : normSq x ≤ normSq y := by
```
`Complex` should be open here.

File: Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean [hunk 2]
```diff
@@ -177,10 +177,8 @@ theorem toComplex_im_div (x y : ℤ[i]) : ((x / y : ℤ[i]) : ℂ).im = round (x
...
-  rw [normSq_apply, normSq_apply, ← _root_.abs_mul_self, _root_.abs_mul, ←
-      _root_.abs_mul_self y.re, _root_.abs_mul y.re, ← _root_.abs_mul_self x.im,
-      _root_.abs_mul x.im, ← _root_.abs_mul_self y.im, _root_.abs_mul y.im]
-  gcongr
+  rw [Complex.normSq_apply, Complex.normSq_apply]
+  nlinarith [sq_le_sq.mpr hre, sq_le_sq.mpr him]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean]:
```suggestion
  simp only [normSq_apply]
  gcongr
```
`gcongr` is slightly slower than `nlinarith`, but seems more appropriate (still faster than the previous version).

BTW, using
```lean
set_option Elab.async false in
#count_heartbeats in
<code>
```
gives more reliable comparisons.

In this case:
* 4221 for the original
* 3278 for `gcongr`
* 2332 for `nlinarith`

Comment (yuanyi-350) [reply Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean]: In fact, `gcongr` does not pass compilation, so I still use the original `nlinarith`.

File: Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean [hunk 3]
```diff
@@ -176,11 +176,9 @@ theorem toComplex_im_div (x y : ℤ[i]) : ((x / y : ℤ[i]) : ℂ).im = round (x
   simp [-Rat.round_cast, mul_assoc, div_eq_mul_inv, add_mul]
 
 theorem normSq_le_normSq_of_re_le_of_im_le {x y : ℂ} (hre : |x.re| ≤ |y.re|)
-    (him : |x.im| ≤ |y.im|) : Complex.normSq x ≤ Complex.normSq y := by
-  rw [normSq_apply, normSq_apply, ← _root_.abs_mul_self, _root_.abs_mul, ←
-      _root_.abs_mul_self y.re, _root_.abs_mul y.re, ← _root_.abs_mul_self x.im,
-      _root_.abs_mul x.im, ← _root_.abs_mul_self y.im, _root_.abs_mul y.im]
-  gcongr
+    (him : |x.im| ≤ |y.im|) : normSq x ≤ normSq y := by
+  simp only [Complex.normSq_apply]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean]:
```suggestion
  simp only [normSq_apply]
```

File: Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Zsqrtd/GaussianInt.lean]: OK, but you can still remove the `Complex.` in the `simp only` call.

**Comment by MichaelStollBayreuth** [comment]
maintainer delegate

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/0874db99b2986319746fa37f93d52db3ac159756?reference=7175569c842f9164564bd76ff8b207e7b4705522) for 0874db99b2986319746fa37f93d52db3ac159756 against 7175569c842f9164564bd76ff8b207e7b4705522 are in. No significant results found. @riccardobrasca

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Runner for run main has different system configurations between commits.

- ✅ `build//instructions`: **-46.8G** (**-0.03%**)

**Small changes (1✅)**

- ✅ `build/profile/import//wall-clock`: **-1m 44s** (**-1.50%**)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
